US08648081B2
Reflux a mixture of 3-(1-Hydroxy-ethyl)-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester (3.2 g, 0.0141 mol) and manganese dioxide (10.8 g, 0.124 mol) in dichloromethane for 2 hours. Filter the hot reaction mixture solution and concentrate the filtration under vacuum. Purify the residue by silica gel chromatograph (eluting with 2% to 10% ethyl acetate in petroleum ether) to give 3-acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester as white solid (3.0 g, 13.39 mmol, 94.5%). 1H NMR (CDCl3, 400 MHz): δ 3.88 (s, 3H), 2.96 (m, 4H), 2.50 (s, 3H), 2.45 (m, 2H).

reactant | 3-(1-Hydroxy-ethyl)-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 0.0141 mol, 3.2 g | COC(=O)C=1SC(=C2C1CCC2)C(C)O | C11H14O3S
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | manganese dioxide | 0.124 mol, 10.8 g | [O-2].[O-2].[Mn+4]
product | 3-acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 13.39 mmol, 3.0 g, 94.5% | COC(=O)C=1SC(=C2C1CCC2)C(C)=O | C11H12O3S
